US07659401B2
Step 6: 5-(2,2-Dimethoxy-ethyl)-2-methyl-thiazole-4-carbonitrile
2-Methyl-5-trimethylsilanylethynyl-thiazole-4-carbonitrile (4.56 g, 20.7 mmol) was dissolved in 45 ml methanol and sodium methoxide (5.4N in methanol, 11.5 ml, 62 mmol) was added. The reaction mixture was stirred for 2 hrs at reflux and extracted two times with ethyl acetate and saturated NaHCO3-solution. The organic extracts were dried with sodium sulfate, filtered and evaporated. The crude product (4.5 g, >100%) was used without any further purification for the next step.

reactant | 2-Methyl-5-trimethylsilanylethynyl-thiazole-4-carbonitrile | 20.7 mmol, 4.56 g | CC=1SC(=C(N1)C#N)C#C[Si](C)(C)C | C10H12N2SSi
reactant | sodium methoxide | 62 mmol, 5.4N, 11.5 ml | C[O-].[Na+]
reactant | methanol | 45 ml | CO | CH4O
product | 5-(2,2-Dimethoxy-ethyl)-2-methyl-thiazole-4-carbonitrile | COC(CC1=C(N=C(S1)C)C#N)OC | C9H12N2O2S
